US07371743B2
(c) 4-(morpholin-3-on-4-yl)-3-nitro-benzoic acid-chloride
290 mg (1.02 mmol) 4-(2-carboxymethoxy-ethylamino)-3-nitro-benzoic acid in 100 ml dichloromethane are combined with 0.186 ml (2.55 mmol) thionyl chloride and 2 drops of DMF and refluxed for one day. After evaporation of the solution i. vac. it is evaporated with toluene and the residue is further reacted without any more purification.

reactant | 4-(2-carboxymethoxy-ethylamino)-3-nitro-benzoic acid | 1.02 mmol, 290 mg | C(=O)(O)COCCNC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H12N2O7
reactant | thionyl chloride | 2.55 mmol, 0.186 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-(morpholin-3-on-4-yl)-3-nitro-benzoic acid-chloride | N1(C(COCC1)=O)C1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C11H9ClN2O5
